US09315501B2
Step 1. N-[4-Bromo-5-(2,4-difluorophenoxy)-2-nitrophenyl]-2,2,2-trifluoroacetamide
A suspension of 4-bromo-5-(2,4-difluorophenoxy)-2-nitroaniline (0.500 g, 1.45 mmol) and triethylamine (0.404 mL, 2.90 mmol) in methylene chloride (7.0 mL) at 0° C. was treated with trifluoroacetic anhydride (0.409 mL, 2.90 mmol) dropwise. The reaction mixture was stirred at rt for 30 min, diluted with water (50 mL) and was extracted with dichloromethane (2×50 mL). The combined organic extracts were washed with brine, dried with sodium sulfate, filtered, and concentrated to give a light brown solid. Purification by flash column chromatography (100% hexanes to 20% EtOAc/hexanes) gave the desired product (0.637 g, 100%) as a yellow solid. LCMS calculated for C14H7BrF5N2O4 (M+H)+: m/z=440.9, 442.9. found: 440.6, 442.7.

reactant | 4-bromo-5-(2,4-difluorophenoxy)-2-nitroaniline | 1.45 mmol, 0.500 g | BrC1=CC(=C(N)C=C1OC1=C(C=C(C=C1)F)F)[N+](=O)[O-] | C12H7BrF2N2O3
reactant | triethylamine | 2.90 mmol, 0.404 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 2.90 mmol, 0.409 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 7.0 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | N-[4-Bromo-5-(2,4-difluorophenoxy)-2-nitrophenyl]-2,2,2-trifluoroacetamide | 0.637 g, 100% | BrC1=CC(=C(C=C1OC1=C(C=C(C=C1)F)F)NC(C(F)(F)F)=O)[N+](=O)[O-] | C14H6BrF5N2O4
